US07396958B2
2-(5-chloro-2-nitrobenzyl)pyridine
To 22.44 g of potassium tert-butoxide in 500 ml of dimethyl sulfoxide are slowly added 8.66 g of 4-chloronitrobenzene and 8.2 g of 2-chloromethylpyridine dissolved in 100 ml of dimethyl sulfoxide. After 18 hours at room temperature, the mixture is hydrolysed with saturated ammonium chloride solution and extracted three times with dichloromethane. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is filtered through silica H, eluting with dichloromethane, to give 10.695 g of the expected product.

reactant | potassium tert-butoxide | 22.44 g | CC(C)([O-])C.[K+]
reactant | 4-chloronitrobenzene | 8.66 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 2-chloromethylpyridine | 8.2 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(5-chloro-2-nitrobenzyl)pyridine | 10.695 g | ClC=1C=CC(=C(CC2=NC=CC=C2)C1)[N+](=O)[O-] | C12H9ClN2O2
